US08486984B2
6.3 N-[5-(4-Isopropyl-benzenesulfonylamino)-1H-benzoimidazol-2-ylmethyl]-propionamide
To a solution of N-(3,4-diamino-phenyl)-4-isopropyl-benzenesulfonamide×HCl (500 mg, 1.32 mmol) in DMF (20 ml) at 0° C. was added propionylamino-acetic acid (170 mg, 1.32 mmol) and 1-hydroxy-7-azabenzotriazole (HOAt) (220 mg, 1.59 mmol). After stirring the mixture at 0° C. for 15 min EDC (N-ethyl-N′-(3-dimethylaminopropyl)-carbodiimide) (300 mg, 1.45 mmol) was added. DIPEA (diisopropylethylamine) (0.92 ml, 5.29 mmol) was added after stirring another 15 min at 0° C. The mixture was stirred at room temperature for 16 h, and then concentrated under reduced pressure. The residue was partitioned between ethyl acetate and saturated aqueous NaHCO3 and the organic layer was dried over MgSO4, filtered, and the solvent evaporated under reduced pressure. A solution of the obtained oil in acetic acid was heated to 70° C. for 6 h. After evaporation of the solvent in vacuo the residue was purified by column chromatography to give the product as a yellow oil (320 mg, 61%).

reactant | N-(3,4-diamino-phenyl)-4-isopropyl-benzenesulfonamide | NC=1C=C(C=CC1N)NS(=O)(=O)C1=CC=C(C=C1)C(C)C | C15H19N3O2S
reactant | HCl | 1.32 mmol, 500 mg | Cl | ClH
reactant | propionylamino-acetic acid | 1.32 mmol, 170 mg | C(CC)(=O)NCC(=O)O | C5H9NO3
reactant | 1-hydroxy-7-azabenzotriazole | 1.59 mmol, 220 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | EDC | 1.45 mmol, 300 mg
reactant | DIPEA | 5.29 mmol, 0.92 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | N-[5-(4-Isopropyl-benzenesulfonylamino)-1H-benzoimidazol-2-ylmethyl]-propionamide | 320 mg, 61% | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=CC2=C(NC(=N2)CNC(CC)=O)C=C1 | C20H24N4O3S
